US09193741B2
Synthesis of 1-(4-(5-amino-2-(3,4-dimethoxyphenethyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-methoxyphenoxy)ethanone
This compound was prepared from 2-(3,4-dimethoxyphenethyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidin-5-amine using 4-methoxyphenoxyacetic acid in a yield of 71%, according to the procedure for the synthesis of example 50.

reactant | 2-(3,4-dimethoxyphenethyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidin-5-amine | COC=1C=C(CCC=2SC=3N=C(N=C(C3N2)N2CCNCC2)N)C=CC1OC | C19H24N6O2S
reactant | 4-methoxyphenoxyacetic acid | COC1=CC=C(OCC(=O)O)C=C1 | C9H10O4
product | 1-(4-(5-amino-2-(3,4-dimethoxyphenethyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-methoxyphenoxy)ethanone | yield of 71% | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC(=C(C=C2)OC)OC)N2CCN(CC2)C(COC2=CC=C(C=C2)OC)=O | C28H32N6O5S
